US09388153B2
Step 2. 2-(3-((6-(3-Fluorophenyl)-2,3-dihydro-1H-inden-1-yl)(methyl)amino)phenoxy)acetic acid
Aqueous lithium hydroxide (1 N, 1 mL, 1 mmol) was added to a solution of isopropyl 2-(3-((6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-yl)(methyl)amino)phenoxy)acetate (12 mg, 0.028 mmol) in THF (1 mL) in a scintillation vial. The vial was sealed and stirred overnight at room temperature. After 24 h, the reaction mixture was allowed to cool and the volatiles were concentrated. The residue was acidified with hydrochloric acid (1 N, 1 mL) and extracted with ethyl acetate (3×2 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated. The resulting crude residue was purified by preparative TLC (1000 mm thickness, 10% methanol/dichloromethane) to afford 7 mg (65%) of the title compound.

reactant | lithium hydroxide | 1 mmol, 1 N, 1 mL | [OH-].[Li+]
reactant | isopropyl 2-(3-((6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-yl)(methyl)amino)phenoxy)acetate | 0.028 mmol, 12 mg | FC=1C=C(C=CC1)C1=CC=C2CCC(C2=C1)N(C=1C=C(OCC(=O)OC(C)C)C=CC1)C | C27H28FNO3
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-(3-((6-(3-Fluorophenyl)-2,3-dihydro-1H-inden-1-yl)(methyl)amino)phenoxy)acetic acid | 7 mg, 65% | FC=1C=C(C=CC1)C1=CC=C2CCC(C2=C1)N(C=1C=C(OCC(=O)O)C=CC1)C | C24H22FNO3
